US08084623B2
To a stirred solution of (R)-2-(3,4-dichloro-benzoyl)-4-hydroxy-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.222 g, 0.554 mmol) in THF (3 mL) at ambient temperature under nitrogen was added perfluorobutanesulfonyl fluoride (0.195 mL, 1.11 mmol), triethylamine trihydrofluoride (0.181 mL, 1.11 mmol) and triethylamine (0.46 mL, 3.32 mmol). The reaction mixture was stirred for 18 hours, then filtered through a pad of silica, washed with EtOAc, and concentrated in vacuo to give (S)-2-(3,4-dichloro-benzoyl)-4-fluoro-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.222 g, 0.551 mmol, 99%) as a yellow foam that was used directly in the next step without further purification.

reactant | (R)-2-(3,4-dichloro-benzoyl)-4-hydroxy-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.554 mmol, 0.222 g | C(C)(C)(C)OC(=O)N1[C@@](CC(C1)O)(CCC)C(C1=CC(=C(C=C1)Cl)Cl)=O | C19H25Cl2NO4
reactant | perfluorobutanesulfonyl fluoride | 1.11 mmol, 0.195 mL | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | triethylamine trihydrofluoride | 1.11 mmol, 0.181 mL | F.F.F.C(C)N(CC)CC
reactant | triethylamine | 3.32 mmol, 0.46 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (S)-2-(3,4-dichloro-benzoyl)-4-fluoro-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.551 mmol, 0.222 g, 99% | C(C)(C)(C)OC(=O)N1[C@](CC(C1)F)(CCC)C(C1=CC(=C(C=C1)Cl)Cl)=O | C19H24Cl2FNO3
